US07208493B2
6-(3,4-Dimethoxy-benzylamino)-2,4-pteridinediamine
To a solution of 6-bromomethyl-2,4-pteridinediamine hydrobromide (59 mg, 0.176 mmol) in anhydrous N,N dimethylacetamide was added 3,4-dimethoxy-benzylamine (51.15 ul, 0.3512 mmol). The reaction mixture was stirred at 50° C. overnight. The crude product was poured into saturated bicarbonate solution. The resulted precipitate was collected and purified by preparative HPLC. 20.3 mg product was obtained. Yield: 34%; 1H NMR (500 MHz, DMSO-d6): δ 3.67534(s, 3H), 3.70494(s, 3H), 4.05412 (b, 4H), 6.78852–6.80460 (d, J=8.04 Hz, 1H), 6.83624 (s, 1H), 6.83624–6.85393 (d, J=8.195 Hz, 1H); 8.96623(s, 1H), 9.00584(s, 2H), 9.5577(s, 2H); ESI-MS: 342 (M++1)

reactant | 6-bromomethyl-2,4-pteridinediamine hydrobromide | 0.176 mmol, 59 mg | Br.BrCC=1N=C2C(=NC(=NC2=NC1)N)N
reactant | 3,4-dimethoxy-benzylamine | 0.3512 mmol, 51.15 ul | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | bicarbonate | C([O-])(O)=O
solvent | N,N dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 6-(3,4-Dimethoxy-benzylamino)-2,4-pteridinediamine | 20.3 mg, Yield: 34% | COC=1C=C(CNC=2N=C3C(=NC(=NC3=NC2)N)N)C=CC1OC | C15H17N7O2
